Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([H:7])([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4][H:5],1.96215798859
[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.23143648084
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10].[H:11],5.12613736196
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-4.32262522946
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.23152432996
[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.71005561265
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],4.2708932541800015
[O:1]=[C:2]=[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],2.92140415796
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[C:2]#[C:3],8.013520899860001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],4.30174948891
[C:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[C:3]([H:4])=[C:5]([H:6])[O:7][H:8],4.06918135194
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-4.15618250154
[O:1][O:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9]>>[C:4]#[C:5][H:6].[O:1][O:2][C:3][C:7]([H:8])[H:9],5.513615055419999
[H:1][C:2]=[C:3]([O:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13].[O:4][O:5][C:6]([H:7])([H:8])[H:9],0.126923256908
[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-4.7356439341000005
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1],3.95608436196
[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.1586518358
[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[C:3][O:4][H:5],2.7964242403400004
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]=[O:3],-1.72694221601
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.61227430621
[H:1][C:2]=[C:3]([H:4])[O:5][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:10]([H:11])[H:12].[O:8][H:9],2.8004712614700003
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.42228668955
[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.91074016715
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],5.27895242859
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]=[O:3],1.3467681346200002
[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]([C:3]=[O:5])([H:4])([H:6])[H:10].[O:1]([C:7][H:8])[H:9],3.67489374859
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]([H:7])[C:8]1([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],0.16482892977900002
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])[H:13],-5.00106558778
[C:4]#[C:5][O:6][H:7].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]#[C:5][O:6][H:7],-7.073888556260001
